US07196104B2
Preparation CP: 2-Bromo-thiazole-4-carbonyl azide
To a stirred solution of 2-bromo-thiazole-4-carboxylic acid (5.33 g, 25.7 mmol) in anhydrous THF (40 mL) at 0° C., under N2, TEA (7.18 mL, 51.5 mmol) was added. After 30 min ethyl chloroformate (2.59 mL, 27.0 mmol) was added dropwise over 10 min. After 25 min a solution of NaN3 (1.76 g, 27.0 mmol) in H2O (12 mL) was added. The mixture was warmed to RT over 1 h then diluted with H2O (100 mL). The precipitate was filtered off and air dried to yield the title compound as a white amorphous solid. MS m/z: 233.2, 235.2 (M+H). Calc'd. for C4HBrN4OS-233.05.

reactant | 2-bromo-thiazole-4-carboxylic acid | 25.7 mmol, 5.33 g | BrC=1SC=C(N1)C(=O)O | C4H2BrNO2S
reactant | ethyl chloroformate | 27.0 mmol, 2.59 mL | ClC(=O)OCC | C3H5ClO2
reactant | NaN3 | 27.0 mmol, 1.76 g | [N-]=[N+]=[N-].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | H2O | 12 mL | O | H2O
solvent | H2O | 100 mL | O | H2O
product | 2-Bromo-thiazole-4-carbonyl azide | BrC=1SC=C(N1)C(=O)N=[N+]=[N-] | C4HBrN4OS
